US07504404B2
3-{5-[6-(4-Chloro-phenyl)-8-methyl-imidazo[1,2-a]pyridin-3-yl]-[1,2,4]oxadiazol-3-yl}-benzenesulfonamide
The title compound was prepared from 6-(4-chloro-phenyl)-8-methyl-imidazo[1,2-a]pyridine-3-carboxylic acid (example C.33) (143 mg, 0.5 mmol) and N-hydroxy-3-sulfamoyl-benzamidine [CAS-No. 9000-88-7] (161 mg, 0.75 mmol) according to general procedure II. Obtained after trituration with water and further purification by crystallization (MeOH/diethyl ether) as an off-white solid (152 mg, 65%). MS (EI) 465.1 [(M)+]; mp 301° C.

reactant | 6-(4-chloro-phenyl)-8-methyl-imidazo[1,2-a]pyridine-3-carboxylic acid | 0.5 mmol, 143 mg | ClC1=CC=C(C=C1)C=1C=C(C=2N(C1)C(=CN2)C(=O)O)C | C15H11ClN2O2
reactant | N-hydroxy-3-sulfamoyl-benzamidine | 0.75 mmol, 161 mg | ONC(C1=CC(=CC=C1)S(N)(=O)=O)=N | C7H9N3O3S
product | 3-{5-[6-(4-Chloro-phenyl)-8-methyl-imidazo[1,2-a]pyridin-3-yl]-[1,2,4]oxadiazol-3-yl}-benzenesulfonamide | ClC1=CC=C(C=C1)C=1C=C(C=2N(C1)C(=CN2)C2=NC(=NO2)C=2C=C(C=CC2)S(=O)(=O)N)C | C22H16ClN5O3S
